US09290451B2
7,7-dimethyl-N-(2-(5-methyl-1,2,4-oxadiazol-3-yl)propan-2-yl)-5,6,7,8-tetrahydroquinoline-2-carboxamide
The title compound was synthesized in analogy to Example 1, using 7,7-dimethyl-5,6,7,8-tetrahydro-quinoline-2-carboxylic acid (Example 143 d) and α,α,5-trimethyl-1,2,4-oxadiazole-3-methanamine (CAN 1153831-97-0) as starting materials, LC-MS (UV peak area/EIC) 100%, 329.1977 (M+H)+.

reactant | 7,7-dimethyl-5,6,7,8-tetrahydro-quinoline-2-carboxylic acid | CC1(CCC=2C=CC(=NC2C1)C(=O)O)C | C12H15NO2
reactant | α,α,5-trimethyl-1,2,4-oxadiazole-3-methanamine | CC(N)(C1=NOC(=N1)C)C | C6H11N3O
product | 7,7-dimethyl-N-(2-(5-methyl-1,2,4-oxadiazol-3-yl)propan-2-yl)-5,6,7,8-tetrahydroquinoline-2-carboxamide | CC1(CCC=2C=CC(=NC2C1)C(=O)NC(C)(C)C1=NOC(=N1)C)C | C18H24N4O2
